US04220651
To a solution of 12.42 g. (0.0339 mol) of (±)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene piperidine in 250 ml of hot ethanol is added 13.11 g. (0.0339 mol) of di-p-toluoyl-d-tartaric acid dissolved in 50 ml of warm ethanol. The solution is stirred and allowed to cool to room temperature. The salt that crystallizes is removed by filtration and is recrystallized from ethanol six times to afford 2.62 g. of material having a constant rotation: [α]58925 -111°, [α]57825 -116°, [α]54625 -137°, [α]43625 -306° (c, 0.531, pyridine). This salt is converted to the free base with saturated sodium bicarbonate solution and extracting it into ether. The ether phase is washed with water, dried over magnesium sulfate, filtered, and the ether is removed. Recrystallization from acetonitrile gives (-)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine as TLC homogeneous (fl. alumina/CHCl3), sparkling white prisms, m.p. 189°-190°; [α]58925 -100°, [α]57825 -106°, [α]54625 -127°, [α]43625 -304° (c, 0.731, CHCl3).

reactant | 3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene piperidine | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=C3NCCCC3)C1 | C20H18BrN
reactant | di-p-toluoyl-d-tartaric acid | 0.0339 mol | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (-)-1-methyl-4-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)Br)C=CC=C2 | C21H20BrN
